US07838675B2
N-{2-[(2,3-Difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-4-morpholin-4-ylpiperidine-1-sulfonamide
Sodium triacetoxyborohydride (0.48 g) was added to a solution of N-{2-[(2,3-difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-4-oxopiperidine-1-sulfonamide (the product of step iii) (0.249 g), morpholine (0.2 mL) and 2M aqueous acetic acid (0.5 mL) in DCM (12 mL). The mixture was stirred at room temperature for 18 h then 2M aqueous sodium hydroxide (10 mL) added to the residue. The mixture was shaken vigorously then acidified to pH 8 with 2M aqueous hydrochloric acid and extracted with ethyl acetate. The combined organic extracts were washed with saturated aqueous sodium chloride, dried with sodium sulfate, filtered and evaporated. The residue was purified by column chromatography on silica using a 3:7 to 1:0 mixture of ethyl acetate and iso-hexane as eluent then precipitated slowly from methanol, filtered and washed with further methanol to afford the title compound as a pale yellow solid. Yield: 53 mg

reactant | Sodium triacetoxyborohydride | 0.48 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | N-{2-[(2,3-difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-4-oxopiperidine-1-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCC(CC2)=O)OC)C=CC=C1F | C17H18F2N4O4S2
reactant | morpholine | 0.2 mL | N1CCOCC1 | C4H9NO
reactant | sodium hydroxide | 2M, 10 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 2M, 0.5 mL | C(C)(=O)O | C2H4O2
product | N-{2-[(2,3-Difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-4-morpholin-4-ylpiperidine-1-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCC(CC2)N2CCOCC2)OC)C=CC=C1F | C21H27F2N5O4S2
